US09056852B2
Iodomethane (0.12 mL, 1.3 mmol) was added to a mixture of 4-(2-methyl -2-nitropropyl)phenol (300 mg, 1.5 mmol) and potassium carbonate (425 mg, 3.1 mmol) in tetrahydrofuran (20 mL) and N,N-dimethylformamide (1 mL). After refluxing overnight, the mixture was cooled and concentrated under vacuum. The residue was dissolved in ethyl acetate, washed with water, dried over anhydrous sodium sulfate and concentrated to provide crude 1-methoxy-4-(2-methyl-2-nitropropyl)benzene (200 mg, 62% yield) as yellow oil which was used directly in the next step.

reactant | Iodomethane | 1.3 mmol, 0.12 mL | IC | CH3I
reactant | 4-(2-methyl -2-nitropropyl)phenol | 1.5 mmol, 300 mg | CC(CC1=CC=C(C=C1)O)(C)[N+](=O)[O-] | C10H13NO3
reactant | potassium carbonate | 3.1 mmol, 425 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-methoxy-4-(2-methyl-2-nitropropyl)benzene | 200 mg, 62% yield | COC1=CC=C(C=C1)CC(C)([N+](=O)[O-])C | C11H15NO3
